US06133258
The reaction procedure of Example 116 was followed except that 70 mg g of ethyl 4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate, 0.9 ml of ethanol and 0.9 ml of a 0.25 N aqueous solution of sodium hydroxide were used. As a result, 61 mg of 4-(N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoic acid was obtained.

reactant | ethyl 4-[N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoate | CN(C=1SC2=C(C(N1)=O)C=CC=N2)C2=CC=C(C(=O)OCC)C=C2 | C17H15N3O3S
reactant | sodium hydroxide | [OH-].[Na+]
solvent | ethanol | 0.9 ml | C(C)O | C2H6O
product | 4-(N-methyl-N-(4-oxo-4H-pyrido[3,2-e]-1,3-thiazin-2-yl)amino]benzoic acid | 61 mg | CN(C=1SC2=C(C(N1)=O)C=CC=N2)C2=CC=C(C(=O)O)C=C2 | C15H11N3O3S
